US07470807B2
Synthesis of methyl 3-[3-nitro-4-(piperazin-1-yl)phenyl]acrylate (Intermediate Int. n-19) (Synthesis method NJ)
A solution of methoxycarbonylmethyl(triphenyl)phosphonium bromide (1.1 g, TCI) in THF (12.5 ml) was added with sodium hydride (115 mg, WAKO) under ice cooling, warmed to room temperature, then added dropwise with a solution of 3-nitro-4-(piperazin-1-yl)benzaldehyde (550.6 mg, MAYB) in THF (12.5 ml), and stirred at the same temperature for 16.5 hours. The reaction mixture was poured into brine (40 ml), and extracted with ethyl acetate (100 ml). The organic layer was washed successively with saturated aqueous sodium hydrogencarbonate and saturated brine, and dried, and then the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography (hexane:ethyl acetate=5:1) to obtain the title compound (Intermediate Int. n-19, 511 mg).

reactant | methoxycarbonylmethyl(triphenyl)phosphonium bromide | 1.1 g | [Br-].COC(=O)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium hydride | 115 mg | [H-].[Na+]
reactant | 3-nitro-4-(piperazin-1-yl)benzaldehyde | 550.6 mg | [N+](=O)([O-])C=1C=C(C=O)C=CC1N1CCNCC1 | C11H13N3O3
solvent | THF | 12.5 ml | C1CCOC1 | C4H8O
solvent | THF | 12.5 ml | C1CCOC1 | C4H8O
solvent | brine | 40 ml | [Cl-].[Na+].O
product | methyl 3-[3-nitro-4-(piperazin-1-yl)phenyl]acrylate | 511 mg | [N+](=O)([O-])C=1C=C(C=CC1N1CCNCC1)C=CC(=O)OC | C14H17N3O4
